US07696210B2
6-Methyl-pyridine-2,3-diamine:
6-Methyl-3-nitro-pyridin-2-ylamine (1.3 g, 8.5 mmol) was dissolved in methanol (40 ml). The flask was purged of all oxygen, placed under a nitrogen atmosphere, and charged with Pd/C (150 mg of 10% palladium on carbon). The reaction mixture was purged, and placed under a hydrogen atmosphere, maintained with a balloon. It was allowed to stir for 18 h until the reduction was judged complete. It was then filtered through Celite™ to remove the palladium. The solvent was removed under vacuum to yield the title compound (1.01 g, 96%). 1H NMR (DMSO-d6): δ=6.59 (d, 1H, J=7.5 Hz), 6.19 (d, 1H, J=7.5 Hz), 5.23 (bs, 2H), 4.39 (bs, 2H), 2.11 (s, 3H).

reactant | 6-Methyl-3-nitro-pyridin-2-ylamine | 8.5 mmol, 1.3 g | CC1=CC=C(C(=N1)N)[N+](=O)[O-] | C6H7N3O2
solvent | methanol | 40 ml | CO | CH4O
product | 6-Methyl-pyridine-2,3-diamine | 1.01 g, 96% | CC1=CC=C(C(=N1)N)N | C6H9N3
